US07741327B2
3-(2,3-Dichloro-phenoxy)-4-{(1S,3S)-3-ethoxy-1-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-ylcarbamoyl]-butylamino}-but-2-enoic acid ethyl ester (120 mg) was dissolved in tetrahydrofuran (2 mL). The sealed tube was heated in a microwave at 160° C. for 4 h. The resulting solution was concentrated and the residue was purified by reverse phase column chromatography (acetonitrile in water 25% to 100%) to give (2S,4S)-2-[4-(2,3-dichloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-ethoxy-pentanoic acid [1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-amide (40 mg) as a white powder: HR-ES-MS m/z calculated for C24H30Cl2N4O5 [M+H]+ 525.1666, observed 525.1669; 1H NMR (300 MHz, CDCl3) δ ppm 1.14 (br. s., 6H), 1.19-1.30 (m, 6H), 1.88-2.09 (m, 1H), 2.18 (ddd, J=14.7, 9.3, 5.9 Hz, 1H), 3.30-3.46 (m, 1H), 3.54 (br. s., 1H), 3.61-3.77 (m, 1H), 3.94 (s, 2H), 4.14 (d, J=17.8 Hz, 1H), 4.47 (d, J=17.8 Hz, 1H), 4.92 (s, 1H), 5.01 (t, J=6.2 Hz, 1H), 6.68 (d, J=1.5 Hz, 1H), 7.16-7.33 (m, 4H), 7.42 (d, J=7.8 Hz, 1H), 9.35 (br. s., 1H).

reactant | 3-(2,3-Dichloro-phenoxy)-4-{(1S,3S)-3-ethoxy-1-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-ylcarbamoyl]-butylamino}-but-2-enoic acid ethyl ester | 120 mg | C(C)OC(C=C(CN[C@@H](C[C@H](C)OCC)C(NC1=NN(C=C1)CC(C)(C)O)=O)OC1=C(C(=CC=C1)Cl)Cl)=O | C26H36Cl2N4O6
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (2S,4S)-2-[4-(2,3-dichloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-ethoxy-pentanoic acid [1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-amide | 40 mg | OC(CN1N=C(C=C1)NC([C@H](C[C@H](C)OCC)N1C(C=C(C1)OC1=C(C(=CC=C1)Cl)Cl)=O)=O)(C)C | C24H30Cl2N4O5
